US06627630B1
Ethyl 6-Chloroimidazo[1,2-b]pyridazine-2-acetate
11.2 g of 3-amino-6-chloropyridazine was suspended in 150 ml of ethanol; 28.6 g of ethyl 4-chloroacetoacetate was added, followed by heating and refluxing for 24 hours. After cooling, the mixture was concentrated under reduced pressure. The residue was adjusted to pH 7 by the addition of an aqueous solution of sodium hydrogen carbonate, followed by extraction with ethyl acetate; the extract was washed with saline, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with hexane:ethyl acetate (2:3). The desired fraction was collected to yield 12.7 g of the title compound.

reactant | 3-amino-6-chloropyridazine | 11.2 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | ethyl 4-chloroacetoacetate | 28.6 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Ethyl 6-Chloroimidazo[1,2-b]pyridazine-2-acetate | 12.7 g | ClC=1C=CC=2N(N1)C=C(N2)CC(=O)OCC | C10H10ClN3O2
